US04490392
10.3 g of 2-benzyloxyphenylglyoxal hydrate are dissolved in 5 ml of dimethylsulfoxide. 7.6 g of α-methyl-2,3,4-trimethoxyphenethylamine are dissolved in 6 ml of dimethylsulfoxide, and the solution is added to the 2-benzyloxyphenylglyoxal solution under ice-cooling. The mixture is stirred at 20° C. for 2 hours, whereby a solution of α-(α-methyl-2,3,4-trimethoxyphenethylimino)-2-benzyloxyacetophenone in dimethylsulfoxide is obtained.

reactant | 2-benzyloxyphenylglyoxal hydrate | 10.3 g | O.C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(=O)C=O
reactant | α-methyl-2,3,4-trimethoxyphenethylamine | 7.6 g | CC(CC1=C(C(=C(C=C1)OC)OC)OC)N | C12H19NO3
reactant | 2-benzyloxyphenylglyoxal | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C(=O)C=O | C15H12O3
solvent | dimethylsulfoxide | 5 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 6 ml | CS(=O)C | C2H6OS
product | α-(α-methyl-2,3,4-trimethoxyphenethylimino)-2-benzyloxyacetophenone | CC(CC1=C(C(=C(C=C1)OC)OC)OC)N=C(C(=O)C1=CC=CC=C1)OCC1=CC=CC=C1 | C27H29NO5
